US04277471
N,N-Dimethyl-4-hydroxycarbonyl-4-(1,1'-biphenyl-2-yl)butylamine
A solution of 6.0 g. of N,N-dimethyl-4-cyano-4-(1,1'-biphenyl-2-yl)butylamine in 65 ml. of 90% sulfuric acid was heated on a steam bath for eight hours. After cooling the reaction mixture to 5° C. and making it alkaline by the addition of 10% sodium hydroxide, the product was extracted therefrom intodiethyl ether. The ethereal extracts were washed with water and dried. Excess hydrogen chloride was bubbled into the ethereal solution, whereupona precipitate formed and was collected by filtration. Crystallization of the precipitate from ethanol afforded 2.9 g. of N,N-dimethyl-4-hydroxycarbonyl-4-(1,1'-biphenyl-2-yl)butylaminium chloride. M.P. 192°-194° C.

reactant | N,N-dimethyl-4-cyano-4-(1,1'-biphenyl-2-yl)butylamine | CN(C)CCCC(C1=C(C=CC=C1)C1=CC=CC=C1)C#N | C19H22N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethyl-4-hydroxycarbonyl-4-(1,1'-biphenyl-2-yl)butylaminium chloride | [Cl-].C[NH+](C)CCCC(C1=C(C=CC=C1)C1=CC=CC=C1)C(=O)O
product | N,N-Dimethyl-4-hydroxycarbonyl-4-(1,1'-biphenyl-2-yl)butylamine | CN(C)CCCC(C1=C(C=CC=C1)C1=CC=CC=C1)C(=O)O | C19H23NO2
